US08067437B2
8-Methoxymethoxy-6-methyl-5-vinyl-1H-quinolin-2-one
Bis-(triphenylphosphine)palladium(II)chloride (98 mg) is added to a solution of 5-bromo-8-methoxymethoxy-6-methyl-1H-quinolin-2-one (410 mg) and tributylvinyltin (603 μL) in dimethylformamide (14 mL) at room temperature. The reaction mixture is heated for 24 hours at 90° C., evaporated and purified by flash column chromatography on silica gel, eluting with 2% methanol in dichloromethane.

reactant | 5-bromo-8-methoxymethoxy-6-methyl-1H-quinolin-2-one | 410 mg | BrC1=C2C=CC(NC2=C(C=C1C)OCOC)=O | C12H12BrNO3
reactant | tributylvinyltin | 603 μL | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
catalyst | Bis-(triphenylphosphine)palladium(II)chloride | 98 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 8-Methoxymethoxy-6-methyl-5-vinyl-1H-quinolin-2-one | COCOC=1C=C(C(=C2C=CC(NC12)=O)C=C)C | C14H15NO3
